2151-12-30 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: LGIB
   24 Hour Events:
 [**Location (un) 549**] LINE - START [**2151-12-30**] 02:24 AM
 ANGIOGRAPHY - At [**2151-12-30**] 04:00 AM
   Nothing found bleeding at IR.
   Had hives with IV contrast.
   Received another 2 units for a total of 3.5 at [**Hospital1 5**]
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsIV Dye
   Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-12-30**] 02:00 AM
   Midazolam (Versed) - [**2151-12-30**] 04:00 AM
   Fentanyl - [**2151-12-30**] 04:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Flowsheet Data as of  [**2151-12-30**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96
   HR: 79 (75 - 100) bpm
   BP: 128/50(69) {92/38(57) - 128/51(69)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           2,420 mL
   PO:
           TF:
   IVF:
   1,272 mL
   Blood products:
   1,148 mL
   Total out:
                                                                      0 mL
                                                                    838 mL
   Urine:
   638 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,582 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, Rash: resolving hives
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   130 K/uL
   10.5 g/dL
   92 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.7 mEq/L
   15 mg/dL
   108 mEq/L
   138 mEq/L
   28.7 %
   8.5 K/uL
        [image002.jpg]
                             [**2151-12-30**]  12:46 AM
                             [**2151-12-30**]  05:30 AM
   WBC
   8.5
   Hct
   29.8
   28.7
   Plt
   81
   130
   Cr
   0.4
   Glucose
   92
   Other labs: PT / PTT / INR:12.5/27.2/1.1, Differential-Neuts:83.0 %,
   Lymph:10.6 %, Mono:5.4 %, Eos:0.8 %, Ca++:6.5 mg/dL, Mg++:1.4 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RASH
   78 year old female with a history of diverticulosis/itis s/p sigmoid
   resection and HTN presents with signficant BRBPR, likey diverticular
   LGIB.
   .
   #LGIB: Likely diverticular vs. less likely bleed from removed polyps.
   No signs of anastamosis abnormalities or AVMs on scope. UGIB less
   likley given clear EGD. Nothing seen bleeding at IR.
   -Tagged RBC scan to localize
   -GI/surgery following, f/u recs
   -Transfuse platelets and FFP as she has not received any of those in
   setting of massive transfusion
   -Hold ASA and lisinopril
   -q6 HCT
   -Transfuse PRBCs as needed
   -Access via trauma line
   .
   #HTN: Hold lisinopril for now
   .
   #Mild EtOH abuse: No signs of withdrawal now and no history of such.
   -Continue to monitor
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, pneumoboots
   # ACCESS: PIV
   # CODE:  Full
   # CONTACT:  Daughter, [**Name (NI) **] [**Name (NI) 4054**], HCP Cell:[**Telephone/Fax (1) 10301**] [**Name2 (NI) 154**]:
   [**Telephone/Fax (1) 10302**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2151-12-30**] 12:58 AM
   20 Gauge - [**2151-12-30**] 01:01 AM
   [**First Name4 (NamePattern1) 549**] [**Last Name (NamePattern1) **] - [**2151-12-30**] 02:24 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2151-12-30 08:49:00 Physician Attending Progress Note
HPI:
   78F with HTN, h/o diverticulitis/diverticulosis requiring sigmoid
   colectomy in [**2149**]; admitted to [**Hospital1 **] with hematochezia.  Underwent
   colonoscopy without active bleeding; however, had recurrent LGIB and
   repeat [**Last Name (un) **] non-diagnostic secondary to bleeding.  Transferred to [**Hospital1 5**]
   for further evaluation.
   24 Hour Events:
   Admitted overnight; evaluated by IR without clear lesion.  She remained
   hemodynamically stable with SBP as low as 90's but now improved with
   SBP 120s.
   Transfused 10units at OSH, has received 3.5 units after arrival to
   [**Hospital1 5**] (one unit complicated by mild transfusion reaction).
   Allergies:
   IV Dye
   Iodine Containing
   Hives;
   Medications:
   Benadryl
   Sarna
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2151-12-30**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 83 (75 - 100) bpm
   BP: 156/65(88) {92/38(57) - 156/65(88)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           2,842 mL
   PO:
           TF:
   IVF:
   1,287 mL
   Blood products:
   1,555 mL
   Total out:
                                                                      0 mL
                                                                    938 mL
   Urine:
   738 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,904 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Gen: Awake/alert, conversant NAD
   Chest: Clear anterior
   CV: RRR no murmur
   Abd: s/nt/nd; no hematoma
   Ext: Flat, non-pruritic blanching rash in groin
   Labs / Radiology
   10.5 g/dL
   130 K/uL
   92 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.7 mEq/L
   15 mg/dL
   108 mEq/L
   138 mEq/L
   28.7 %
   8.5 K/uL
        [image002.jpg]
                             [**2151-12-30**]  12:46 AM
                             [**2151-12-30**]  05:30 AM
   WBC
   8.5
   Hct
   29.8
   28.7
   Plt
   81
   130
   Cr
   0.4
   Glucose
   92
   Other labs: PT / PTT / INR:12.5/27.2/1.1, Differential-Neuts:83.0 %,
   Lymph:10.6 %, Mono:5.4 %, Eos:0.8 %, Ca++:6.5 mg/dL, Mg++:1.4 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   78F with history of diverticular bleed; admitted with profuse LGIB
   requiring approximately 15units of PRBC.
   1.  GIB:  s/p colonoscopy at OSH and IR, tagged RBC scan today was
   negative.
   - If no source by RBC scan, possible prep/[**Last Name (un) **] tomorrow if otherwise
   stable.
   - Follow  hemodynamics, HCT today; transfuse for active bleeding
   - Will obtain repeat angio if she rebleeds today
   - plan reviewed with Dr. [**Last Name (STitle) 2406**] in detail
   Remainder of plan for resident progress note/admission note
   ICU Care
   Nutrition: NPO for procedures
   Glycemic Control:  Not diabetic; Glucose 92
   Lines:
   22 Gauge - [**2151-12-30**] 12:58 AM
   20 Gauge - [**2151-12-30**] 01:01 AM
   [**First Name4 (NamePattern1) 549**] [**Last Name (NamePattern1) **] - [**2151-12-30**] 02:24 AM
   Prophylaxis:
   DVT: No chemical anticoagulation secondary to bleeding; TEDS/boots
   Stress ulcer:  No indication
   VAP:  Not intubated
   Communication:  Updated family/patient
   Code status: Full code
   Disposition : Remain in ICU critically ill
   Total time spent:  35minutes CCT

2151-12-31 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2151-12-30**] 08:30 PM
   Initial angio and tagged RBC negative.  Repeat scan showed bleeding
   from transverse colon @ hepatic flecture.  Went to IR and had
   embolization of middle colic artery (SMA branch).  Bleeding stopped.
   Allergies:
   IV Dye
   Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-12-31**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 92 (78 - 103) bpm
   BP: 132/62(79) {106/42(67) - 166/76(95)} mmHg
   RR: 19 (18 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  4,498 mL
                                                                  1,203 mL
   PO:
                                                                    200 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,410 mL
                                                                    843 mL
   Blood products:
                                                                  1,888 mL
   Total out:
                                                                  3,423 mL
                                                                  1,480 mL
   Urine:
                                                                  2,998 mL
                                                                  1,080 mL
   NG:
   Stool:
                                                                    225 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,075 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, Rash: resolving hives
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   128 K/uL
   10.6 g/dL
   198 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   29.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2151-12-30**]  12:46 AM
                             [**2151-12-30**]  05:30 AM
                             [**2151-12-30**]  11:33 AM
                             [**2151-12-30**]  04:28 PM
                             [**2151-12-30**]  06:51 PM
                             [**2151-12-30**]  06:55 PM
                             [**2151-12-30**]  07:08 PM
                             [**2151-12-31**]  12:09 AM
                             [**2151-12-31**]  04:10 AM
   WBC
   8.5
   8.2
   6.1
   7.4
   Hct
   29.8
   28.7
   35.2
   32.5
   33.6
   37
   31.1
   29.6
   Plt
   81
   130
   117
   126
   128
   Cr
   0.4
   0.5
   0.6
   Glucose
   92
   198
   Other labs: PT / PTT / INR:12.2/29.1/1.0, Differential-Neuts:83.0 %,
   Lymph:10.6 %, Mono:5.4 %, Eos:0.8 %, Fibrinogen:285 mg/dL, Ca++:7.4
   mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Angiography: [**12-31**] Superior mesenteric arteriogram showed active
   contrast extravasation from a tertiary branch of middle colic artery.
   Middle colic artery was selectively catheterized and the bleeding
   branch successfully embolized with coils. Post embolization
   arteriograms did not show any active contrast extravasation.  Inferior
   mesenteric arteriogram did not show any active contrast extravasation.
   [**2151-12-30**] Radiology OTHER EMBO : No bleeding
   [**2151-12-30**] Radiology GI BLEEDING STUDY: Bleeding at hepatic flexture
   [**2151-12-30**] Radiology GI BLEEDING STUDY: No bleeding
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RASH
   78 year old female with a history of diverticulosis/itis s/p sigmoid
   resection and HTN presents with significant BRBPR from hepatic flecture
   colinic bleed.
   #LGIB: S/P middle colic artery embolization which was likely source of
   the bleed.  S/P 13.5 U pRBC.  Watch from procedure
   complications
   -GI/surgery following, f/u recs
   -Transfuse platelets and FFP as she has not received any of those in
   setting of massive transfusion
   -Hold ASA and lisinopril
   -PM Hct
   -Transfuse PRBCs as needed
   -Access via trauma line, which is kinked
   #HTN: Hold lisinopril for now
   #Mild EtOH abuse: No signs of withdrawal now and no history of such.
   -Continue to monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2151-12-30**] 12:58 AM
   20 Gauge - [**2151-12-30**] 01:01 AM
   [**First Name4 (NamePattern1) 549**] [**Last Name (NamePattern1) **] - [**2151-12-30**] 02:24 AM will D/C today
   Prophylaxis:
   DVT: PPI, pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Daughter, [**Name (NI) **] [**Name (NI) 4054**], HCP Cell:[**Telephone/Fax (1) 10301**] [**Name2 (NI) 154**]:
   [**Telephone/Fax (1) 10302**]
   Code status: Full code
   Disposition: ICU, can call out to floor if Hct stable today without
   further GI bleeding

2151-12-31 12:04:00 Physician Attending Progress Note
HPI:
    78F with GIB; now s/p IR embolization.
   24 Hour Events:
   Angio and tagged RBC negative yesterday.  Had recurrent bleeding
   overnight and repeat tagged RBC demonstrated bleeding a the transverse
   colon at hepatic flexure.  Underwent IR embolization.  Did not require
   any additional transfusions overnight.  She was hemodynamically stable.
   Allergies:
   IV Dye
   Iodine Containing
   Hives;
   Other ICU medications:
   Mucomyst
   Sarna lotion
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2151-12-31**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 97 (72 - 103) bpm
   BP: 108/66(77) {106/42(64) - 161/76(90)} mmHg
   RR: 28 (18 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.3 kg (admission): 72.5 kg
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  4,498 mL
                                                                  1,755 mL
   PO:
                                                                    200 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,410 mL
                                                                  1,395 mL
   Blood products:
                                                                  1,888 mL
   Total out:
                                                                  3,423 mL
                                                                  2,125 mL
   Urine:
                                                                  2,998 mL
                                                                  1,650 mL
   NG:
   Stool:
                                                                    225 mL
                                                                    475 mL
   Drains:
   Balance:
                                                                  1,075 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   128 K/uL
   198 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   29.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2151-12-30**]  12:46 AM
                             [**2151-12-30**]  05:30 AM
                             [**2151-12-30**]  11:33 AM
                             [**2151-12-30**]  04:28 PM
                             [**2151-12-30**]  06:51 PM
                             [**2151-12-30**]  06:55 PM
                             [**2151-12-30**]  07:08 PM
                             [**2151-12-31**]  12:09 AM
                             [**2151-12-31**]  04:10 AM
                             [**2151-12-31**]  09:44 AM
   WBC
   8.5
   8.2
   6.1
   7.4
   Hct
   29.8
   28.7
   35.2
   32.5
   33.6
   37
   31.1
   29.6
   29.3
   Plt
   81
   130
   117
   126
   128
   Cr
   0.4
   0.5
   0.6
   Glucose
   92
   198
   Other labs: PT / PTT / INR:12.2/29.1/1.0, Differential-Neuts:83.0 %,
   Lymph:10.6 %, Mono:5.4 %, Eos:0.8 %, Fibrinogen:285 mg/dL, Ca++:7.4
   mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   78F with GIB; s/p embolization
   1.       GIB: transverse colon bleeding, s/p embolization
   - HCT stable for 12hours post embolization
   - continue to follow HCT today, check this afternoon.
   - Plan to transfer to floor if stable this afternoon.
   - Monitor abdominal exam, surgery following
   Remainder of plan per resident progress note
   ICU Care
   Nutrition: Keep NPO s/p recent procedure
   Glycemic Control:  Glucose within range
   Lines:  d/c trauma line
   22 Gauge - [**2151-12-30**] 12:58 AM
   20 Gauge - [**2151-12-30**] 01:01 AM
   [**First Name4 (NamePattern1) 549**] [**Last Name (NamePattern1) **] - [**2151-12-30**] 02:24 AM
   Prophylaxis:
   DVT: TEDS/boots, no heparin secondary to bleeding
   Stress ulcer: No indication for ulcer prophylaxis
   VAP:  Not intubated
   Communication:  Family and patient updated during rounds
   Code status: Full code
   Disposition : Transfer to floor today if HCT stable this afternoon
   Total time spent: 25 minutes

2152-01-01 08:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: LGIB
   24 Hour Events:
 CALLED OUT
   Then AM HCT slightly down, rechecking HCT prior to transfer to floor
   History obtained from Patient
   Allergies:
   History obtained from PatientIV Dye
   Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-1**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 92 (72 - 103) bpm
   BP: 126/57(73) {99/43(58) - 138/66(77)} mmHg
   RR: 22 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.3 kg (admission): 72.5 kg
             Total In:
                                                                  3,300 mL
                                                                  1,173 mL
   PO:
                                                                    600 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,700 mL
                                                                    973 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                    460 mL
   Urine:
                                                                  2,355 mL
                                                                    460 mL
   NG:
   Stool:
                                                                    475 mL
   Drains:
   Balance:
                                                                    470 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   119 K/uL
   8.7 g/dL
   129 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.1 mEq/L
   6 mg/dL
   109 mEq/L
   139 mEq/L
   25.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2151-12-30**]  11:33 AM
                             [**2151-12-30**]  04:28 PM
                             [**2151-12-30**]  06:51 PM
                             [**2151-12-30**]  06:55 PM
                             [**2151-12-30**]  07:08 PM
                             [**2151-12-31**]  12:09 AM
                             [**2151-12-31**]  04:10 AM
                             [**2151-12-31**]  09:44 AM
                             [**2151-12-31**]  04:59 PM
                             [**2152-1-1**]  04:21 AM
   WBC
   8.2
   6.1
   7.4
   5.4
   Hct
   35.2
   32.5
   33.6
   37
   31.1
   29.6
   29.3
   28.3
   25.2
   Plt
   117
   126
   128
   119
   Cr
   0.5
   0.6
   0.4
   Glucose
   198
   129
   Other labs: PT / PTT / INR:12.2/29.1/1.0, Differential-Neuts:83.0 %,
   Lymph:10.6 %, Mono:5.4 %, Eos:0.8 %, Fibrinogen:285 mg/dL, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RASH
   78 year old female with a history of diverticulosis/itis s/p sigmoid
   resection and HTN presents with significant BRBPR from hepatic flecture
   colinic bleed.
   #LGIB: S/P middle colic artery embolization which was likely source of
   the bleed.  S/P 13.5 U pRBC.  Watch from procedure
   complications
   -GI/surgery following, f/u recs
   -Transfuse platelets and FFP as she has not received any of those in
   setting of massive transfusion
   -Hold ASA and lisinopril
   - Repeat Hct
   -Transfuse PRBCs as needed
   #HTN: Hold lisinopril for now
   #Mild EtOH abuse: No signs of withdrawal now and no history of such.
   -Continue to monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2151-12-30**] 12:58 AM
   20 Gauge - [**2151-12-30**] 01:01 AM
   [**First Name4 (NamePattern1) 549**] [**Last Name (NamePattern1) **] - [**2151-12-30**] 02:24 AM will D/C today
   Prophylaxis:
   DVT: PPI, pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Daughter, [**Name (NI) **] [**Name (NI) 4054**], HCP Cell:[**Telephone/Fax (1) 10301**] [**Name2 (NI) 154**]:
   [**Telephone/Fax (1) 10302**]
   Code status: Full code
   Disposition: ICU, can call out to floor if Hct stable today without
   further GI bleeding
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2151-12-30**] 12:58 AM
   20 Gauge - [**2151-12-30**] 01:01 AM
   18 Gauge - [**2151-12-31**] 12:31 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2152-01-01 11:17:00 Physician Attending Progress Note
HPI:
    78F generally healthy with LGIB, s/p embolization.
   24 Hour Events:
   Stable hemodynamics overnight; drift in HCT but stable now this
   mornning at 25.
   Trauma line discontinued.
   Allergies:
   IV Dye
   Iodine Containing
   Hives;
   Other ICU medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2152-1-1**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 91 (72 - 103) bpm
   BP: 119/55(70) {99/43(58) - 138/59(76)} mmHg
   RR: 25 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.3 kg (admission): 72.5 kg
             Total In:
                                                                  3,300 mL
                                                                  1,687 mL
   PO:
                                                                    600 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,700 mL
                                                                  1,487 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                    720 mL
   Urine:
                                                                  2,355 mL
                                                                    720 mL
   NG:
   Stool:
                                                                    475 mL
   Drains:
   Balance:
                                                                    470 mL
                                                                    967 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Gen: awake, alert, conversant
   Chest: Clear
   CV: RRR no murmur
   Abd: s/nt/nd
   Ext: no edema
   Labs / Radiology
   8.7 g/dL
   119 K/uL
   129 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.1 mEq/L
   6 mg/dL
   109 mEq/L
   139 mEq/L
   25.5 %
   5.4 K/uL
        [image002.jpg]
                             [**2151-12-30**]  04:28 PM
                             [**2151-12-30**]  06:51 PM
                             [**2151-12-30**]  06:55 PM
                             [**2151-12-30**]  07:08 PM
                             [**2151-12-31**]  12:09 AM
                             [**2151-12-31**]  04:10 AM
                             [**2151-12-31**]  09:44 AM
                             [**2151-12-31**]  04:59 PM
                             [**2152-1-1**]  04:21 AM
                             [**2152-1-1**]  09:29 AM
   WBC
   6.1
   7.4
   5.4
   Hct
   32.5
   33.6
   37
   31.1
   29.6
   29.3
   28.3
   25.2
   25.5
   Plt
   126
   128
   119
   Cr
   0.5
   0.6
   0.4
   Glucose
   198
   129
   Other labs: PT / PTT / INR:12.2/29.1/1.0, Differential-Neuts:83.0 %,
   Lymph:10.6 %, Mono:5.4 %, Eos:0.8 %, Fibrinogen:285 mg/dL, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   78yoF with LGIB, s/p embolization by IR.
   1. GIB:  Stable HCT this morning, though drifted from yesterday.
   - Always hemodynamically stable; no change yesterday.
   - Repeat HCT in PM, transfuse if drifing < 25 given recent acute bleed
   - follow abdominal exam given embolization
   - Surgery and GI following
   2. Renal:  continue IVF until no longer NPO
   - f/u urine output given decreased slightly yesterday
   Remainder of plan per resident progress note. At time of dictation,
   patient has been transferred to floor. Apparently had new GIB and will
   likely be going for surgery.
   ICU Care
   Nutrition: Currently NPO, will discuss with surgery regarding advancing
   diet.
   Glycemic Control:  glucose 130-200, insulin sliding scale
   Lines:
   22 Gauge - [**2151-12-30**] 12:58 AM
   20 Gauge - [**2151-12-30**] 01:01 AM
   18 Gauge - [**2151-12-31**] 12:31 PM
   Prophylaxis:
   DVT: Holding heparin given recent bleeding; boots/teds
   Stress ulcer:  No indication
   VAP:  Not intubated
   Communication:  Patient updated during rounds
   Code status: Full code
   Disposition : Transfer to floor
   Total time spent: 25 minutes